US09334245B2
C. (2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid 2-methoxy-ethyl ester (R7=—(CH2)2OCH3)
(2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid (10 mg, 23 μmol, 1.0 eq.) was dissolved in 2-methoxyethanol (0.8 mL) followed by the addition of 4 M of HCl in dioxane (117 μL). The resulting mixture was heated and maintained at 80° C. for about 3.5 hours. The mixture was concentrated and purified by preparative HPLC to yield the title compound (7.2 mg, 95% purity). MS m/z [M+H]+ calc'd for C24H27ClN4O5, 487.17. found 487.4.

reactant | (2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid | 23 μmol, 10 mg, 1.0 eq. | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)CO)NC(=O)C=1NN=C(N1)Cl)C1=CC=CC=C1 | C21H21ClN4O4
reactant | HCl | 4 M | Cl | ClH
reactant | 2-methoxyethanol | 0.8 mL | COCCO | C3H8O2
solvent | dioxane | 117 μL | O1CCOCC1 | C4H8O2
product | (2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid 2-methoxy-ethyl ester | 7.2 mg, 95% | COCCOC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=C(N1)Cl)CO)=O | C24H27ClN4O5
